US08389508B2
To a solution of 5-{3-[2-ethyl-3-(2-oxoethyl)phenyl]-1,2,4-thiadiazol-5-yl}-2-(2-methylpropyl)benzonitrile (D62) (100 mg, 0.257 mmol) and L-proline (59.1 mg, 0.513 mmol) stirred in Ethanol (10 mL) for 20 min was added sodium cyanoborohydride (48.4 mg, 0.770 mmol). This mixture was stirred at room temperature for 2 h. The reaction was quenched with water, then dried and dissolved in DMF. The residue was purified by for Mass Directed AutoPrep to afford 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,2,4-thiadiazol-3-yl}-2-ethylphenyl)ethyl]-L-proline (E76) (20 mg) as a TFA salt (white solid).

reactant | 5-{3-[2-ethyl-3-(2-oxoethyl)phenyl]-1,2,4-thiadiazol-5-yl}-2-(2-methylpropyl)benzonitrile | 0.257 mmol, 100 mg | C(C)C1=C(C=CC=C1CC=O)C1=NSC(=N1)C=1C=CC(=C(C#N)C1)CC(C)C | C23H23N3OS
reactant | L-proline | 0.513 mmol, 59.1 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium cyanoborohydride | 0.770 mmol, 48.4 mg | C(#N)[BH3-].[Na+]
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,2,4-thiadiazol-3-yl}-2-ethylphenyl)ethyl]-L-proline | 20 mg | C(#N)C=1C=C(C=CC1CC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CCN1[C@H](C(=O)O)CCC1)CC | C28H32N4O2S
